US04200572
A suspension of 0.499 g (1.81 mmole) of cis-2-azidomethyl-4-oxo-3-phenoxyacetylaminoazetidine and 0.189 g of 10% palladium on carbon in 25 ml of absolute ethanol was hydrogenated at atmospheric pressure and at 40° for 1 hour. The solution was filtered through celite and the solvent was removed in vacuo to afford a colorless gum which was dissolved in 15 ml of methylene dichloride. Anhydrous magnesium sulfate was added followed by addition of a solution of 0.314 g (1.91 mmole) of benzyl glyoxalate in 10 ml of methylene dichloride. The reaction mixture was stirred at room temperature under argon for 2.5 hours then was allowed to stand at 0° overnight. After filtering the reaction mixture, the solvents were removed in vacuo to give a semi-crystalline residue which was recrystallized from ethyl acetate-hexane to give N-(cis-4-oxo-3-phenoxyacetylamino-2-azetidinylmethyl)iminoacetic acid benzyl ester as a colorless solid.

reactant | cis-2-azidomethyl-4-oxo-3-phenoxyacetylaminoazetidine | 1.81 mmole, 0.499 g | N(=[N+]=[N-])C[C@@H]1NC([C@@H]1NC(COC1=CC=CC=C1)=O)=O | C12H13N5O3
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | benzyl glyoxalate | 1.91 mmole, 0.314 g | C(C=O)(=O)OCC1=CC=CC=C1 | C9H8O3
catalyst | palladium on carbon | 0.189 g | [Pd] | Pd
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | methylene dichloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(cis-4-oxo-3-phenoxyacetylamino-2-azetidinylmethyl)iminoacetic acid benzyl ester | C(C1=CC=CC=C1)OC(C=NC[C@@H]1NC([C@@H]1NC(COC1=CC=CC=C1)=O)=O)=O | C21H21N3O5
